US05252586
Cinnamyl alcohol (1.52 g, 11.3 mmol) and sodium hydride (0.56 g, 14 mmol, 60% oil disp.) were stirred in dry N,N-dimethylformamide (15 mL) at room temperature under a nitrogen atmosphere for 45 minutes. After the hydrogen gas evolution had ceased, a solution of 1-benzoyl-4[(p-toluene sulfonyl)oxyethyl]piperidine (3.93 g, 11.3 mmol) in dry DMF (40 mL) was added, and the mixture was stirred for 18 hours. Additional sodium hydride (0.53 g) was added, and the reaction was further stirred for 24 hours. The reaction was quenched with saturated aqueous ammonium chloride (50 mL), and extracted with ethyl acetate (500 mL). The organic phase was extracted with water (5×50 mL), brine (50 mL), dried (MgSO4), filtered, and concentrated in vacuo. The crude product was purified by chromatography on silica gel, eluting with hexanes to 50% ethyl acetate in hexanes, then concentrated under vacuum to yield (E)-1-benzoyl-4-[(3-phenyl-2-propenyloxy)ethyl]piperidine (2.55 g, 65%) as a yellow oil. IR (neat): 1630 cm-1. HRMS: Calculated for C23H27NO2 : 349.2042; found: 349.2050.

reactant | Cinnamyl alcohol | 11.3 mmol, 1.52 g | C(C=CC1=CC=CC=C1)O | C9H10O
reactant | sodium hydride | 14 mmol, 0.56 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 1-benzoyl-4[(p-toluene sulfonyl)oxyethyl]piperidine | 11.3 mmol, 3.93 g | C(C1=CC=CC=C1)(=O)N1CCC(CC1)CCOS(=O)(=O)C1=CC=C(C=C1)C | C21H25NO4S
reactant | sodium hydride | 0.53 g | [H-].[Na+]
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | (E)-1-benzoyl-4-[(3-phenyl-2-propenyloxy)ethyl]piperidine | 2.55 g, 65% | C(C1=CC=CC=C1)(=O)N1CCC(CC1)CCOC\C=C\C1=CC=CC=C1 | C23H27NO2
